US08536185B2
Step A: Preparation of sodium 1-benzylpiperidine-4-carboxylate
To a solution consisting of ethyl 1-benzylpiperidine-4-carboxylate (500 mg, 2.02 mmol) in ethanol (10 mL) was added 1 N sodium hydroxide (2.02 mL, 2.02 mmol) and the reaction mixture was stirred at room temperature overnight. Most of the ethanol was removed under reduced pressure and stirring was continued for six hours. Toluene was added to remove most of the water by azeotrope and the material was dried under high vacuum overnight to provide the title intermediate as a white solid.

reactant | ethyl 1-benzylpiperidine-4-carboxylate | 2.02 mmol, 500 mg | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)OCC | C15H21NO2
reactant | sodium hydroxide | 2.02 mmol, 1 N, 2.02 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | sodium 1-benzylpiperidine-4-carboxylate | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)[O-].[Na+] | InChI=1S/C13H17NO2.Na/c15-13(16)12-6-8-14(9-7-12)10-11-4-2-1-3-5-11;/h1-5,12H,6-10H2,(H,15,16);/q;+1/p-1
